2154-03-15 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-3-14**] 08:45 AM
 ULTRASOUND - At [**2154-3-14**] 01:30 PM
 DIALYSIS CATHETER - START [**2154-3-14**] 06:30 PM
   [**2154-3-14**]:
   - Renal to start CVVH for contrast induced nephropathy, will place line
   today after heparin held for a few hours
   - Renal US showed no hydronephrosis, no masses, no stones, bilateral
   renal cysts, arterial and venous flow noted
   - Discontinued chlorothiazide as starting CVVH
   - Able to run the CVVH negative overnight
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-15**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 83 (65 - 83) bpm
   BP: 92/34(61) {78/31(53) - 118/63(88)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 58 Inch
    CVP: 15 (10 - 18)mmHg
   PAP: (45 mmHg) / (27 mmHg)
   CO/CI (Fick): (3.7 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 46 - 54
   Total In:
                                                                  1,545 mL
                                                                    886 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,545 mL
                                                                    826 mL
   Blood products:
   Total out:
                                                                    298 mL
                                                                    812 mL
   Urine:
                                                                     45 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,247 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.32/36/115/18/-6
   Ve: 6.5 L/min
   PaO2 / FiO2: 121
   Physical Examination
   Gen: Elderly female Intubated and sedated
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: Sedated
   Labs / Radiology
   102 K/uL
   7.2 g/dL
   118 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   83 mg/dL
   99 mEq/L
   127 mEq/L
   21.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2154-3-14**]  05:17 AM
                             [**2154-3-14**]  07:04 AM
                             [**2154-3-14**]  07:15 AM
                             [**2154-3-14**]  07:26 PM
                             [**2154-3-14**]  07:45 PM
                             [**2154-3-14**]  09:56 PM
                             [**2154-3-15**]  12:23 AM
                             [**2154-3-15**]  12:34 AM
                             [**2154-3-15**]  05:14 AM
                             [**2154-3-15**]  05:33 AM
   WBC
   16.9
   16.1
   16.3
   Hct
   25.4
   23.9
   24.5
   21.7
   Plt
   140
   141
   102
   Cr
   3.2
   3.8
   TCO2
   22
   22
   20
   21
   22
   19
   Glucose
   98
   114
   118
   Other labs: PT / PTT / INR:12.3/104.8/1.0, CK / CKMB /
   Troponin-T:2159/273/14.93, Differential-Neuts:94.8 %, Lymph:3.0 %,
   Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:7.9 mg/dL, Mg++:2.6
   mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI.
   #. MR: Has posterior pap muscle ischemia and severe MR but not a flail
   leaflet
   - Will attempt to get volume off with UF to decrease MR
   - Will continue IABP for better CO
   - Will continue to monitor and if gets worse may need MVR
   #. Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - CK peaked at 3000
   - continue aspirin 325, clopidogrel 75
   - cont home simvastatin 80
   - hold carvedilol, lisinopril given hypotension
   - TTE today
   # Hypotension/shock: cardiogenic vs septic shock. wbc count elevated.
   no fever. ?h/o c diff +ve. no h/o fever or diarrhea. Lactate low. CXR
   consistent with pulm edema and/or PNA of LLL. Tried fluid boluses as
   thought cardiogenic shock may be preload dependent given RCA infarct
   but UOP did not increase and had to increase dopa so may consider this
   to be systolic failure and may need to diurese for better CO. Renal saw
   and recommended UF. Intermittent v pacing resulting in disynchroinous
   IABP pulsation.
   - Cte IABP; will atempt weaning today.
   - hold off on anti-HTNs
   - Consider amio to keep in NSR for better forward flow with atrial
   kick.
   - Continue dopa
   - Continue UF
   - will ask EP to look at pacing paramenters
   # ARF: Likely seoncdary to two dye loads as well as poor CO
   - cls renal today for possibility of UF for volume overload
   - add urine eos for ?hypersensitivity reaction
   # ?C diff diarrhea: no symptoms.
   - d/c precautions today
   #. Afib: new onset afib now s/p DCCV for hypotension
   - continue IV heparin
   - BB for rate control
   # HTN: hold amlodipine, BB, ACE as pt hypotensive
   #. COPD: cont home combivent
   #. Hyperparathyroidism: cont sensipar
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2154-3-13**] 04:00 PM
   IABP line - [**2154-3-13**] 05:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Reviewed overnight course and data.Needs to be aggressively dyalised as
   she is water loaded.
   Examined Pt and spent 35 mins over case.Treatment as outlined by
   Dr.[**Last Name (STitle) **]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2154-3-15**] 11:48 ------

2154-03-16 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Talked with family and do want full code but if on ventilator for
   more than a few days and not getting better will not want it any more.
   - Able to get about 1L off with UF through afternoon with lower MAP
   thresholds and MV 02 improved to 59
   - EP came to try to decrease A-pacing threshold but patient was in AFib
   so could not over-pace that rate (300bpm)
   - With weaning of IABP patient's pressures did not significantly
   change.
   - Touched base with CT surgery and she is still on their list if
   necessary to replace/repair valve
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Dopamine - 14 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-15**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-16**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 80 (65 - 87) bpm
   BP: 98/38(60) {82/31(52) - 109/47(72)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Height: 58 Inch
    CVP: 10 (8 - 15)mmHg
   PAP: (47 mmHg) / (21 mmHg)
   CO/CI (Fick): (4.2 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 48 - 59
   Total In:
                                                                  3,288 mL
                                                                    886 mL
   PO:
                                                                    160 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  3,128 mL
                                                                    836 mL
   Blood products:
   Total out:
                                                                  4,730 mL
                                                                  1,310 mL
   Urine:
                                                                     29 mL
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,442 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.36/37/121/20/-3
   PaO2 / FiO2: 303
   Physical Examination
   Gen: Elderly female in NAD under bear hugger on shovel mask
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   84 K/uL
   7.4 g/dL
   104 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.5 mEq/L
   22 mg/dL
   102 mEq/L
   131 mEq/L
   21
   11.4 K/uL
        [image002.jpg]
                             [**2154-3-15**]  04:28 PM
                             [**2154-3-15**]  04:49 PM
                             [**2154-3-15**]  05:08 PM
                             [**2154-3-15**]  09:51 PM
                             [**2154-3-15**]  10:05 PM
                             [**2154-3-15**]  10:19 PM
                             [**2154-3-15**]  11:11 PM
                             [**2154-3-16**]  03:50 AM
                             [**2154-3-16**]  04:23 AM
                             [**2154-3-16**]  04:26 AM
   WBC
   11.4
   Hct
   23.7
   22
   22
   22.5
   21
   Plt
   84
   Cr
   1.9
   1.5
   TCO2
   19
   19
   21
   22
   Glucose
   158
   109
   104
   Other labs: PT / PTT / INR:11.7/78.3/1.0, CK / CKMB /
   Troponin-T:2159/273/14.93, Differential-Neuts:94.8 %, Lymph:3.0 %,
   Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:7.7 mg/dL, Mg++:2.2
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI.
   # MR: Has posterior pap muscle ischemia and severe MR but not a flail
   leaflet
   - Will attempt to get volume off with UF to decrease MR
   - Will continue IABP for better CO; currently 1:2 pulsations
   - Will continue to monitor and if gets worse may need MVR
   # Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - CK peaked at 3000
   - continue aspirin 325, clopidogrel 75
   - cont home simvastatin 80
   - hold carvedilol, lisinopril given hypotension
   # Anemia, thrombocytopenia: bleeding vs hemolysis in setting of IABP.
   Will check hemolysis panel, transfuse for HCT>30. Concern for HIT, will
   check PF4 AB.
   # Hypotension/shock: cardiogenic shock. Curtrently on UF with -1.5 lt
   yesterday. Intermittent v pacing resulting in disynchroinous IABP
   pulsation. Doing better with 1:2 IABP. Wil rececheck ECG today, if
   sinus then IABP at 1:1 for improved ABP and therefore potentiating
   better UF.
   - Cte IABP
   - hold off on anti-HTNs
   - Consider amio to keep in NSR for better forward flow with atrial
   kick.
   - Continue dopa
   - Continue UF
   - will ask EP to look at pacer since seems to have some irregular
   pacing spikes on telemetry and did not interrogate ppm yesterday
   # ARF: Likely secondary to two dye loads as well as poor CO
   - follow up renal recs re: CVVH
   - urine eos negative.
   #. Afib: new onset afib now s/p DCCV for hypotension
   - continue IV heparin
   - BB for rate control, will add amniodarone
   # HTN: hold amlodipine, BB, ACE as pt hypotensive
   #. COPD: cont home combivent
   #. Hyperparathyroidism: cont sensipar
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2154-3-13**] 04:00 PM
   IABP line - [**2154-3-13**] 05:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds with
   team.  I agree with Dr. [**Last Name (STitle) **]
s H+P, A+P.  Cardiogenic shock due to IMI
   and apparent papillary muscle dysfunction with marked MR.  On IABP and
   dopamine.  Net negative > 1 liter with CVVH.  Plan is to continue
   negative fluid balance, IABP, and pressor support.  Will transfuse for
   HCT 21.  No CT to evaluate for RP bleed as she is too unstable to
   travel.  If HCT does not respond to transfusion, then will pursue CT.
   Hemolysis w/u.  Once fluid status better, will consider dobutamine to
   aid in IABP wean.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-16**] 11:14 ------

2154-03-17 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   started amnio
   hmolysis [** **]: elevated LDL, hapto/bili wnl. smear w/o schistos, bite,
   spherocytes, clumped or large plts *my read
   Plt down to 69, HIT sent; heparin changed to argatroban (will check
   serotonin release 24 hrs post hep)
   x2pRBC, HCT bumped to ....; stool hc neg
   UF - aprx 150 cc/hr (-1.5lt by 9 pm)
   Dopa down to 14
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Dopamine - 14 mcg/Kg/min
   Argatroban - 1.75 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-17**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 80 (80 - 89) bpm
   BP: 106/38(71) {78/30(53) - 137/55(79)} mmHg
   RR: 18 (13 - 32) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 58 Inch
    CVP: 26 (6 - 26)mmHg
   PAP: (62 mmHg) / (31 mmHg)
   CO/CI (Fick): (2.9 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 44 - 46
   MVO2: 44
   Total In:
                                                                  4,549 mL
                                                                    889 mL
   PO:
                                                                    230 mL
                                  TF:
   IVF:
                                                                  3,776 mL
                                                                    889 mL
   Blood products:
                                                                    543 mL
   Total out:
                                                                  6,575 mL
                                                                  2,033 mL
   Urine:
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,026 mL
                                                                 -1,144 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.42/28/56/27/-4
   PaO2 / FiO2: 59
   Physical Examination
   Gen: Elderly female in NAD under bear hugger on shovel mask
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   [**Year (4 digits) 582**] / Radiology
   75 K/uL
   9.9 g/dL
   140 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.5 mEq/L
   18 mg/dL
   103 mEq/L
   133 mEq/L
   29.0 %
   13.3 K/uL
        [image002.jpg]
                             [**2154-3-16**]  04:23 AM
                             [**2154-3-16**]  04:26 AM
                             [**2154-3-16**]  10:10 AM
                             [**2154-3-16**]  10:43 AM
                             [**2154-3-16**]  03:37 PM
                             [**2154-3-16**]  03:52 PM
                             [**2154-3-16**]  09:13 PM
                             [**2154-3-17**]  04:13 AM
                             [**2154-3-17**]  04:41 AM
                             [**2154-3-17**]  06:32 AM
   WBC
   13.3
   Hct
   21
   24.6
   28.2
   29.0
   Plt
   69
   75
   Cr
   1.4
   1.3
   1.2
   TCO2
   22
   22
   22
   21
   19
   Glucose
   112
   103
   140
   Other [**Year (4 digits) **]: PT / PTT / INR:26.7/80.2/2.7, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI.
   # MR/Shock: Has posterior pap muscle ischemia and severe MR but not a
   flail leaflet. Currenltly in cardiogenic shock; treated with dopamine,
   IABP, and UF. Overall -3.5 lt yesterday. PAd was improving through the
   day (as low as17) but rose this morning. The validity of this rise is
   questionable since CI improved during the same time frame, and if PAd
   was truly elevated this would cause decrease in CI.
   - Plan is to continue IABP to maintain pressure for UF. Once PAd at
   acceptable range ~10, then wean IABP.
   - amiodarone to keep atrial pacing going
   - Attempt to wean dopamine
   - If can wean dopamine, may be able to wean IABP
   - Plan for surgery at some point
   - Repeat Echo today
   - Will continue to monitor and if gets worse may need MVR
   - continue CVVH for volume removal
   # Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - CK peaked at 3000
   - continue aspirin 325, clopidogrel 75
   - cont home simvastatin 80
   - hold carvedilol, lisinopril given hypotension
   # Anemia: Hemolysis unlikely given normal hapto and t bili. On my read
   PBS only occasional schistos. Rectal
 for hemocult. S/P 2pRBCs with
   appropriate post transfusion response. Despite the lack of strongly
   positive hemolysis [**Last Name (LF) **], [**First Name3 (LF) 3468**] caused by IABP is still strongly
   supported by history. Will continue to monitor. If cont to drop with
   scan for RP bleed.
   # TCP: most likely IABP induced. However HIT is very likely. Sent HIT
   and transitioned to argatroban. Plan is that if plt rise with this
   change, then most likely HIT and would cont argatroban; if platelets
   cont to drop and [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **], then IABP-cause and then would go back to
   heparin.
   # ARF: Contrast induced and poor forward flow. Improving on UF.
   - follow up renal recs re: CVVH
   - urine eos negative.
   #. Afib: new onset afib now s/p DCCV for hypotension
   - continue argatroban
   - BB for rate control, will add amniodarone
   # COPD: cont home combivent
   # Hyperparathyroidism: cont sensipar
   ICU Care
   Nutrition:  consider tube feeds?
   Glycemic Control:
   Lines:
   PA Catheter - [**2154-3-13**] 04:00 PM
   IABP line - [**2154-3-13**] 05:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition:  ccu
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds.  I
   agree with Dr. [**Last Name (STitle) 5077**]
s H+P, A+P above.  Some progress with fluid
   removal and slight overall improvement in clinical status.  Plan is for
   continued fluid removal, repeat echo to reassess mitral valve, and
   attempt to wean dopamine.  If tolerates this, then we may attempt
   initiation of dobutamine in an effort to begin weaning IABP.  Plan
   otherwise as outlined above.  ICU care due to cardiogenic shock and
   UF.  Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-17**] 10:53 ------

2154-03-18 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2153-3-17**]:
   - Attempt to wean dopamine, take less UF off to assist with weaning,
   however unsuccessful
   - Negative 2.6L at 10pm
   - Attempted pacer termination, patient spontaneously converted into
   NSR, set pacer to a sense v pace, but not much improvement in pressures
   - Bedside echo showed no improvement or worsening of MR
   - Pt calling out, delirium, attempted zyprexa X1
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-17**] 01:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Argatroban - 1.5 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-18**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 80 (80 - 107) bpm
   BP: 103/47(71) {93/23(61) - 119/47(75)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 58 Inch
    CVP: 19 (8 - 19)mmHg
   PAP: (73 mmHg) / (34 mmHg)
   CO/CI (Fick): (2.9 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 48 - 53
   Total In:
                                                                  4,421 mL
                                                                  1,099 mL
   PO:
   TF:
   IVF:
                                                                  4,421 mL
                                                                  1,099 mL
   Blood products:
   Total out:
                                                                  6,277 mL
                                                                  1,212 mL
   Urine:
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,856 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.38/38/167/18/-1
   PaO2 / FiO2: 176
   Physical Examination
   Gen: Elderly female in NAD under bear hugger on shovel mask
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   48 K/uL
   9.7 g/dL
   112 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.4 mEq/L
   12 mg/dL
   103 mEq/L
   132 mEq/L
   28.7 %
   20.4 K/uL
        [image002.jpg]
                             [**2154-3-16**]  03:52 PM
                             [**2154-3-16**]  09:13 PM
                             [**2154-3-17**]  04:13 AM
                             [**2154-3-17**]  04:41 AM
                             [**2154-3-17**]  06:32 AM
                             [**2154-3-17**]  09:58 AM
                             [**2154-3-17**]  10:31 AM
                             [**2154-3-17**]  03:55 PM
                             [**2154-3-17**]  04:09 PM
                             [**2154-3-18**]  02:37 AM
   WBC
   13.3
   20.4
   Hct
   24.6
   28.2
   29.0
   31
   28.7
   Plt
   69
   75
   80
   48
   Cr
   1.3
   1.2
   1.1
   1.0
   1.1
   TCO2
   21
   19
   21
   23
   Glucose
   103
   140
   112
   Other labs: PT / PTT / INR:32.6/85.9/3.4, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI.
   # MR/Shock: Has posterior pap muscle ischemia and severe MR but not a
   flail leaflet. Currenltly in cardiogenic shock; treated with dopamine,
   IABP, and UF. Overall -2 lt yesterday. With short cessation of IABP
   during TTE yesterday pressures dropped precipitously (to 60s).
   - Plan is to wean IABP and continue dopa.
   - amiodarone to keep atrial pacing going
   - Plan for surgery at some point
   - Will continue to monitor and if gets worse may need MVR
   - continue CVVH for volume removal
   - Consider dobutamine/milrinone if BPs allow it
   # Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - CK peaked at 3000
   - continue aspirin 325, clopidogrel 75
   - cont home simvastatin 80
   - hold carvedilol, lisinopril given hypotension
   # Anemia: S/P 2pRBCs with appropriate post transfusion response. Has
   hematoma near IABP site now.
   - Possibly bled from IABP although could have had small amount
   hemolysis as well from IABP.
   -Out of concern for HIT started argatroban
   - Will continue to monitor. If cont to drop with scan for RP bleed.
   - Pull IABP if able today
   # Leukocytosis: Will send cultures today although may be clouded
   because started vanc last pm.
   - CXR today as well.
   # TCP: most likely IABP induced. However HIT is very likely. Sent HIT
   and transitioned to argatroban. Pla was that if plt rise with this
   change, then most likely HIT and would cont argatroban; if platelets
   cont to drop and [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **], then IABP-cause and then would go back to
   heparin.
   - Will pull IABP if able as above
   -recheck platelets later today and if <10 or spontaneous bleed will
   transfuse
   # ARF: Contrast induced and poor forward flow. Improving on UF.
   - follow up renal recs re: CVVH
   - urine eos negative.
   #. Afib: new onset afib now s/p DCCV for hypotension
   - continue argatroban
   - added amniodarone
   # COPD: cont home combivent
   # Hyperparathyroidism: cont sensipar
   ICU Care
   Nutrition: HH
   Glycemic Control:  not diabetic
   Lines:
   PA Catheter - [**2154-3-13**] 04:00 PM
   IABP line - [**2154-3-13**] 05:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: full
   Disposition: CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 6668**]
s H+P, A+P.  Will attempt to wean IABP, begin dobutamine.
   ECHO without substantial change on preliminary review.  Episodes of AT
   and PMT.  Currently on Amiodarone.  PM reprogrammed to minimize PMT.
   60 minutes spent on critical care.  ICU level of care due to IABP.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-18**] 16:33 ------

2154-03-19 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started dobutamine and maps better plus MVO2 better (55 from 49 i the
   am)
   - Weaned IABP to 2:1
   - Had ppm induced tachycardia so increased PVARP and then remained with
   HRs in low 100s through day
   - Hct was 26 in pm so gave 1unit pRBCs.
   - Platelets stable so did not require transfusion
   - CXR showed swan in the right spot and readings were better
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-18**] 03:00 PM
   Infusions:
   Argatroban - 0.8 mcg/Kg/min
   Dobutamine - 2 mcg/Kg/min
   Dopamine - 7 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-18**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-19**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 102 (80 - 110) bpm
   BP: 108/45(66) {96/37(57) - 152/63(98)} mmHg
   RR: 11 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 58 Inch
    PAP: (28 mmHg) / (20 mmHg)
   CO/CI (Fick): (4.6 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 48 - 67
   Total In:
                                                                  4,914 mL
                                                                    965 mL
   PO:
                                                                    580 mL
   TF:
   IVF:
                                                                  4,050 mL
                                                                    965 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  7,039 mL
                                                                  1,339 mL
   Urine:
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,125 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: 7.36/35/208/20/-4
   PaO2 / FiO2: 219
   Physical Examination
   Gen: Elderly female in NAD under bear hugger on shovel mask
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   47 K/uL
   10.0 g/dL
   99 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   7 mg/dL
   107 mEq/L
   135 mEq/L
   29.3 %
   15.3 K/uL
        [image002.jpg]
                             [**2154-3-18**]  10:46 AM
                             [**2154-3-18**]  11:01 AM
                             [**2154-3-18**]  11:12 AM
                             [**2154-3-18**]  03:03 PM
                             [**2154-3-18**]  04:36 PM
                             [**2154-3-18**]  05:21 PM
                             [**2154-3-18**]  10:03 PM
                             [**2154-3-18**]  10:32 PM
                             [**2154-3-19**]  04:26 AM
                             [**2154-3-19**]  04:38 AM
   WBC
   14.8
   17.6
   15.3
   Hct
   27.6
   28.2
   30.7
   29.3
   Plt
   59
   43
   47
   Cr
   1.1
   0.9
   0.9
   TCO2
   21
   21
   22
   20
   21
   Glucose
   165
   112
   112
   99
   Other labs: PT / PTT / INR:26.9/86.7/2.7, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # MR/Shock: Has posterior pap muscle ischemia and severe MR but not a
   flail leaflet. Currently in cardiogenic shock; treated with dopamine,
   IABP, and UF. Overall -2 lt yesterday. MVO2 improved and pressor
   requirement decreased from yesterday so clinically slightly better with
   dobutamine despite weaning IABP.
   - Plan is to wean IABP today as BPs tolerate while following EKGs to
   ensure no cardiac ischemia and increase dobutamine as possible to
   reduce afterload. Goal SBP 100.
   - continue dopa and dobutamine (wean dopa as tolerated).
   - amiodarone to keep atrial pacing going
   - continue CVVH for volume removal
   - repeating TTE today to look for worsening MR vs new mechanical
   complication of inferior STEMI
   - Will likely need A-line today as well
   # Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - CK peaked at 3000
   - continue aspirin 325, clopidogrel 75
   - cont home simvastatin 80
   - holding carvedilol, lisinopril given hypotension
   # Anemia: S/P total 3pRBCs with appropriate post transfusion response.
   Has hematoma near IABP site now stable from yesterday and had very
   slightly positive guaiac in stool but not enough to explain anemia.
   - Likely cause is hemolysis from IABP.
   - Out of concern for HIT started argatroban. HIT antibodies pending.
   Will cls hematology for argatroban per protocol.
   - Monitor [**Hospital1 7**], transfuse to Hct goal of 30 and Platelets of 10, or if
   spontaneous bleeding.
   - Pull IABP if able today after wean down
   # Leukocytosis:  trending down, unclear cause,
   - F/u blood cultures
   - Continue empiric vancomycin
   - f/u CXR today to ensure no evidence of pna
   # Thrombocytopenia:  Staying stable, most likely IABP induced. However
   HIT is very likely. Sent HIT and transitioned to argatroban.
   - Will pull IABP if able as above and give platelets prior as <50
   currently
   -recheck platelets later today and if <10 or spontaneous bleed will
   transfuse
   # ARF: Now much improved on UF. Might have been contrast nephropathy,
   still oliguric however so still requires CVVH
   - follow up renal recs re: CVVH
   #. Rhythm: new onset afib now s/p DCCV for hypotension on admission and
   pace-maker induced tachycardia now resolved with increasing the PVARP.
   -monitor on tele
   - continue argatroban until hit antibiodies are back
   - cte amniodarone
   ICU Care
   Nutrition:  Cardiac Diet
   Glycemic Control:
   Lines:
   PA Catheter - [**2154-3-13**] 04:00 PM
   IABP line - [**2154-3-13**] 05:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer: PPI daily
   VAP:
   Comments:
   Communication:  Comments: with patient and family
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  Appears to be
   tolerating addition of dobutamine and weaning of IABP.  Will d/c
   argatroban and place ablloon on 1:1 in anticipation of d/c IABP later
   today.  Other issues as outline above.  I agree with Dr. [**Last Name (STitle) 5077**]
   H+P, A+P.  Total time spent on patient critical care: 60 minutes.  ICU
   level care secondary to IABP, pressor dependence.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-19**] 14:06 ------

2154-03-20 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 1 u plt
   - pulled IABP; could not get pulses by US- needed to increase dopa to
   14 post procedure; arterial ultrasound: No evidence of SFA or CFA
   occlusion.
   - dopa weaned back down to 8
   - HIT negative
   - restarted heparin
   - a line placed
   - dopa to 5 mg
   - TEE: The left atrium is elongated. There is severe symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is severely depressed (LVEF=
   55 %). Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets are moderately thickened. There is mild to
   moderate aortic valve stenosis. Trace aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. There is moderate
   thickening of the mitral valve chordae. Moderate (2+) mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. The pulmonary artery systolic pressure could not be
   determined. There is a small pericardial effusion.
   Compared with the prior study (images reviewed) of [**2153-3-17**], overall
   left ventricular systolic function and mitral regurgitation appear
   similar
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-19**] 03:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Dobutamine - 6 mcg/Kg/min
   Heparin Sodium - 600 units/hour
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-19**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-20**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96.1
   HR: 61 (61 - 98) bpm
   BP: 100/44(61) {92/30(-19) - 135/49(78)} mmHg
   RR: 14 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 58 Inch
    PAP: (41 mmHg) / (20 mmHg)
   CO/CI (Fick): (4.5 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 54 - 73
   Total In:
                                                                  4,708 mL
                                                                  1,721 mL
   PO:
                                                                    650 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  3,773 mL
                                                                  1,441 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                  6,406 mL
                                                                  2,489 mL
   Urine:
                                                                     86 mL
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,698 mL
                                                                   -768 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42/29/84.[**Numeric Identifier 1000**]/20/-3
   PaO2 / FiO2: 84
   Physical Examination
   Gen: Elderly female in NAD under bear hugger on shovel mask
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   79 K/uL
   9.4 g/dL
   100 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   6 mg/dL
   103 mEq/L
   133 mEq/L
   27.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2154-3-18**]  10:32 PM
                             [**2154-3-19**]  04:26 AM
                             [**2154-3-19**]  04:38 AM
                             [**2154-3-19**]  12:03 PM
                             [**2154-3-19**]  12:56 PM
                             [**2154-3-19**]  01:05 PM
                             [**2154-3-19**]  08:03 PM
                             [**2154-3-19**]  08:16 PM
                             [**2154-3-20**]  01:36 AM
                             [**2154-3-20**]  01:58 AM
   WBC
   15.3
   15.2
   13.9
   Hct
   29.3
   29.4
   28.5
   27.9
   Plt
   47
   45
   94
   79
   Cr
   0.9
   0.9
   0.8
   0.7
   TCO2
   20
   21
   19
   20
   19
   Glucose
   99
   134
   96
   100
   Other labs: PT / PTT / INR:14.9/38.7/1.3, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # MR/Shock: Has posterior pap muscle ischemia and severe MR but not a
   flail leaflet. IABP was stopped yesterday. Dopa decreased to 3, with
   dobutamine stable at 6. and Overall -1.7 lt of UF yesterday. MVO2 as
   high as 73%. Overall showing signs of improvement, ECHO shows stable
   papillary mm.
   - continue weaning dopa and start weaning dobutamine
   - amiodarone to keep atrial pacing going (changes pacer settings
   yesterday to minimalize ventricular pacing, and this helped improve PA
   pressures)
   - continue UF for volume removal (goal -1-2L today)
   - on vanc ppx for groin lines until lines removed.
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   # Anemia: Stable HCT at 27. Most likely IABP related. Will continue to
   monitor.
   # Thrombocytopenia:  Most likely IABP induced. HIT negative. Restarted
   heparin last night.
   # ARF: Creatinine much improved on UF. Still oliguric however so still
   requires CVVH. Expect etiology is contrast nephropathy from two caths
   and CT scan as well as hypotension in setting of cardiogeneic shock.
   - follow up renal recs re: CVVH
   # Rhythm: new onset afib now s/p DCCV for hypotension on admission and
   pace-maker induced tachycardia now resolved with increasing the PVARP.
   Currently with aflutter/fib rate controlled at 60-70 bpms with less
   pacemaker spikes
   - Heparin ggt
   - continue amio->can change dose after loading dose finished
   - Consider pace-termination of A lead to convert to sinus
   ICU Care
   Nutrition: HH-ensure with every meal
   Glycemic Control:
   Lines: Will need to resite groin lines. Will pull swan. Will send to IR
   for picc and replace CVVH line.
   PA Catheter - [**2154-3-13**] 04:00 PM
   Dialysis Catheter - [**2154-3-14**] 06:30 PM
   Arterial Line - [**2154-3-19**] 07:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole
   Communication:  Comments: family was updated on [**2154-3-19**]
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above
   Physical Examination
   agree with above
   Medical Decision Making
   agree with above
   Total time spent on patient care: 45 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 946**]  on:[**2154-3-20**]
   17:13 ------

2154-03-21 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2154-3-20**] 02:00 PM
 DIALYSIS CATHETER - START [**2154-3-20**] 08:53 PM
 DIALYSIS CATHETER - STOP [**2154-3-20**] 09:30 PM
   [**2154-3-20**]:
   - Pulled Swan and venous sheath in groin
   - IR to place temporary HD line with VIP port
   - Weaned off dopamine, on dobutamine alone
   - CVVH stopped from 11am (clotted) and restarted after HD line placed.
   - Pace terminate? - not going to attempt as tried in the past
   - Wrote for zyprexa PRN
   - Pulled groin HD line
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-20**] 03:00 PM
   Infusions:
   Heparin Sodium - 300 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dobutamine - 6 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-21**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 69) bpm
   BP: 88/39(53) {81/35(50) - 130/52(73)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 60.4 kg (admission): 65 kg
   Height: 58 Inch
    PAP: (41 mmHg) / (16 mmHg)
   CO/CI (Fick): (4.2 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                  3,511 mL
                                                                    800 mL
   PO:
                                                                    810 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,701 mL
                                                                    740 mL
   Blood products:
   Total out:
                                                                  3,116 mL
                                                                    973 mL
   Urine:
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    395 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.39///16/
   Physical Examination
   Gen: Elderly female in NAD under bear hugger
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits, but large hematoma on
   left thigh and small hematoma on right groin
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   76 K/uL
   8.0 g/dL
   138 mg/dL
   1.1 mg/dL
   16 mEq/L
   4.3 mEq/L
   11 mg/dL
   100 mEq/L
   130 mEq/L
   24.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2154-3-19**]  12:03 PM
                             [**2154-3-19**]  12:56 PM
                             [**2154-3-19**]  01:05 PM
                             [**2154-3-19**]  08:03 PM
                             [**2154-3-19**]  08:16 PM
                             [**2154-3-20**]  01:36 AM
                             [**2154-3-20**]  01:58 AM
                             [**2154-3-20**]  08:15 AM
                             [**2154-3-20**]  09:15 PM
                             [**2154-3-21**]  03:20 AM
   WBC
   15.2
   13.9
   11.3
   11.7
   13.2
   Hct
   29.4
   28.5
   27.9
   26.6
   24.0
   24.0
   Plt
   45
   94
   79
   84
   73
   76
   Cr
   0.9
   0.8
   0.7
   1.1
   1.5
   1.1
   TCO2
   19
   20
   19
   Glucose
   134
   96
   100
   118
   97
   138
   Other labs: PT / PTT / INR:16.3/150.0/1.5, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Cardiogenic shock/MR: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet. IABP was discontinued without difficulty.
   Dopamine was able to be weaned completely.  Dobutamine dose remaining
   the same at 6.   As the patient was off UF for some time yesterday in
   preparation for the HD line placement she was overall even.  Overall
   showing signs of improvement.
   - continue weaning dobutamine as tolerated; consider alternative
   afterload reduction method (isosorbide mononitrate since renal failure
   exculdes acei)
   - amiodarone to keep atrial pacing going
   - continue UF for volume removal (goal -1-2L today)
   - will stop vanc, since groin lines removed. Monitro fever curve.
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   # Normocytic anemia:  Hct decreased to 24, likely following IABP
   removal, groin line removal and HD line placement.  Will transfuse
   today with goal of 30.
   # Thrombocytopenia:  Most likely IABP induced. HIT negative.  Stable,
   will continue to monitor, if it remains low over the next few days will
   work up alternative causes.
   # ARF: Creatinine much improved on UF. Expect etiology is contrast
   nephropathy from two caths and CT scan as well as hypotension in
   setting of cardiogeneic shock. Oligouric but shows some improvemen;
   will continue CVVH for neg fluid balance.
   - follow up renal recs re: CVVH
   # Rhythm: new onset afib now s/p DCCV for hypotension on admission and
   pace-maker induced tachycardia now resolved with increasing the PVARP.
   Currently with aflutter/fib rate controlled at 60-70 bpms with less
   pacemaker spikes
   - Heparin ggt
   - continue amiodarone
   - consulted EP regarding another attempt at pace termination and
   declined
   ICU Care
   Nutrition:  Low salt diet, consulted nutrition for supplements
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-3-19**] 07:00 PM
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT:  Heparin ggt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above, nothing to add
   Physical Examination
   agree with above, nothing to add
   Medical Decision Making
   agree with above, nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 946**]  on:[**2154-3-21**]
   11:23 ------

2154-03-22 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Left foot pain, pulses unchanged from am exam, gave oxycodone ->
   suspect ?gout but didnt want to give NSAIDs given renal failure and
   bleeding.
   - Left LE u/s without clots but did show monophasic waveform consistent
   with peripheral vascular disease
   - Dobutamine decreased to 5 at 4pm with stable BPs
   - PM lytes wnl
   -Dobutamine off
   - Temp 95-96 all night. WBCs stable and pressures better even with
   dobutamine off so didnt re-culture as likely from cvvh
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-20**] 03:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-22**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35
C (95
   HR: 64 (60 - 99) bpm
   BP: 99/51(68) {80/40(54) - 118/55(74)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 60.4 kg (admission): 65 kg
   Height: 58 Inch
             Total In:
                                                                  3,821 mL
                                                                    447 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,780 mL
                                                                    447 mL
   Blood products:
                                                                    561 mL
   Total out:
                                                                  4,558 mL
                                                                  1,153 mL
   Urine:
                                                                     57 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -737 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.43/32/98.[**Numeric Identifier 176**]/23/-1
   Physical Examination
   Gen: Elderly female in NAD under bear hugger
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits, but large hematoma on
   left thigh and small hematoma on right groin
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   53 K/uL
   10.2 g/dL
   92 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   8 mg/dL
   102 mEq/L
   134 mEq/L
   30.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2154-3-20**]  01:36 AM
                             [**2154-3-20**]  01:58 AM
                             [**2154-3-20**]  08:15 AM
                             [**2154-3-20**]  09:15 PM
                             [**2154-3-21**]  03:20 AM
                             [**2154-3-21**]  09:05 AM
                             [**2154-3-21**]  03:21 PM
                             [**2154-3-21**]  03:35 PM
                             [**2154-3-21**]  08:15 PM
                             [**2154-3-22**]  02:30 AM
   WBC
   13.9
   11.3
   11.7
   13.2
   12.2
   Hct
   27.9
   26.6
   24.0
   24.0
   29.7
   30.2
   Plt
   79
   84
   73
   76
   53
   Cr
   0.7
   1.1
   1.5
   1.1
   1.0
   0.8
   0.8
   TCO2
   19
   22
   Glucose
   100
   118
   97
   138
   126
   92
   Other labs: PT / PTT / INR:13.4/37.0/1.2, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Cardiogenic shock/MR: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet. Off pressors completely.
   - very low U/O so continue UF for volume removal (goal -1-2L today)
   - consider repeat echo prior to discharge
   - start nitrate and hydral today if able with blood pressures or
   possibly coreg as bp tolerates. Unable to start ACE because of ARF.
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   # Normocytic anemia:  Most likely multifactorial including hemolysis
   from IABP and blood loss during procedures. [**Month (only) 51**] also have chronic
   anemia as daughter reported yesterday was on procrit at home. Hct 30 p
   2pRBC yesterday.. Will clarify today. Iron studies today.
   # Thrombocytopenia:  Plt dipped to 53. Most likely IABP induced but
   also a component of consumtive process in the setting of line removals
   and subsequent local hematoma. HIT negative.  Will check B12, folate.
   # ARF:Most likely contrast nephropathy. Creatinine remains wnl on UF.
   Remains oligouric; will continue CVVH for neg fluid balance.
   - follow up renal recs re: CVVH and try intermittent CVVH today so can
   get up to chair
   - will monitor uo and may require long term dialysis if remains low.
   # Rhythm: new onset afib now s/p DCCV for hypotension on admission and
   pace-maker induced tachycardia now resolved with increasing the PVARP.
   Currently with aflutter/fib.
   - Heparin ggt until procedures finished and then will have coumadin
   - continue amiodarone
   # Foot pain: suspect gout. Will cls with renal re:allopurinol dosing as
   may be able to receive more when on CVVH.
   - cte oxycodone for foot pain for now
   - up to chair today if able
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-3-19**] 07:00 PM
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: ccu while on cvvh
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and exmined on CCU rounds.  I
   agree with Dr. [**Last Name (STitle) 6668**]
s note above, including her H+P, A+P.  60
   minutes spent on critical care.  ICU level care due to ongoing CVVH,
   cardiogenic shock, and recent pressor use.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-22**] 12:52 ------

2154-03-23 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - renal wanted to try HD challenge in am
   - bp on low side, despite keeping cvvh even
   - held CVVH at 8pm since already met i/o goal for day and bp low (mid
   40s) and complaining of dizziness.
   - pt pulled a line
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2154-3-20**] 03:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-22**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-23**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 67 (58 - 69) bpm
   BP: 86/55(74) {80/38(50) - 102/64(74)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 60.4 kg (admission): 65 kg
   Height: 58 Inch
             Total In:
                                                                  2,539 mL
                                                                    100 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  2,289 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,518 mL
                                                                    145 mL
   Urine:
                                                                    135 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -979 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.43/23/60/15/-6
   Physical Examination
   Gen: Elderly female in NAD under bear hugger
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits, but large hematoma on
   left thigh and small hematoma on right groin
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   53 K/uL
   10.2 g/dL
   139 mg/dL
   0.8 mg/dL
   15 mEq/L
   5.3 mEq/L
   10 mg/dL
   105 mEq/L
   134 mEq/L
   29.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2154-3-20**]  09:15 PM
                             [**2154-3-21**]  03:20 AM
                             [**2154-3-21**]  09:05 AM
                             [**2154-3-21**]  03:21 PM
                             [**2154-3-21**]  03:35 PM
                             [**2154-3-21**]  08:15 PM
                             [**2154-3-22**]  02:30 AM
                             [**2154-3-22**]  08:44 AM
                             [**2154-3-22**]  05:07 PM
                             [**2154-3-22**]  05:18 PM
   WBC
   11.7
   13.2
   12.2
   Hct
   24.0
   24.0
   29.7
   30.2
   29.8
   Plt
   73
   76
   53
   Cr
   1.5
   1.1
   1.0
   0.8
   0.8
   0.8
   TCO2
   22
   16
   Glucose
   97
   138
   126
   92
   108
   139
   Other labs: PT / PTT / INR:13.4/61.8/1.2, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Cardiogenic shock/MR: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet. Off pressors completely.
   - very low U/O so continue UF for volume removal (goal -1-2L today)
   - consider repeat echo prior to discharge
   - start nitrate and hydral today if able with blood pressures or
   possibly coreg as bp tolerates. Unable to start ACE because of ARF.
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   # Normocytic anemia:  Most likely multifactorial including hemolysis
   from IABP and blood loss during procedures. [**Month (only) 51**] also have chronic
   anemia as daughter reported yesterday was on procrit at home. Hct 30 p
   2pRBC yesterday.. Will clarify today. Iron studies today.
   # Thrombocytopenia:  Plt dipped to 53. Most likely IABP induced but
   also a component of consumtive process in the setting of line removals
   and subsequent local hematoma. HIT negative.  Will check B12, folate.
   # ARF:Most likely contrast nephropathy. Creatinine remains wnl on UF.
   Remains oligouric; will continue CVVH for neg fluid balance.
   - follow up renal recs re: CVVH and try intermittent CVVH today so can
   get up to chair
   - will monitor uo and may require long term dialysis if remains low.
   # Rhythm: new onset afib now s/p DCCV for hypotension on admission and
   pace-maker induced tachycardia now resolved with increasing the PVARP.
   Currently with aflutter/fib.
   - Heparin ggt until procedures finished and then will have coumadin
   - continue amiodarone
   # Foot pain: suspect gout. Will cls with renal re:allopurinol dosing as
   may be able to receive more when on CVVH.
   - cte oxycodone for foot pain for now
   - up to chair today if able
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-03-24 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2154-3-23**]:
   - Stool studies sent for diarrhea.
   - Renal, hold CVVH for now.  Will likely need RRT (either CVVH or HD if
   she can tolerate) at some point next week.  To evaluate daily
   - Pressures borderline, did not start coreg
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-24**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 66 (59 - 69) bpm
   BP: 94/57(66) {67/44(51) - 112/69(79)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 60.4 kg (admission): 65 kg
   Height: 58 Inch
             Total In:
                                                                  1,355 mL
                                                                    161 mL
   PO:
                                                                    960 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    395 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                    215 mL
                                                                     22 mL
   Urine:
                                                                    115 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: Elderly female in NAD under bear hugger
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Irreg irreg, normal S1, S2. 3/6 systolic murmur best heard at apex.
   No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles anteriorly
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Bilateral pitting edema. No femoral bruits, but large hematoma on
   left thigh and small hematoma on right groin
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   70 K/uL
   10.3 g/dL
   91 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   19 mg/dL
   100 mEq/L
   135 mEq/L
   31.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2154-3-21**]  03:20 AM
                             [**2154-3-21**]  09:05 AM
                             [**2154-3-21**]  03:21 PM
                             [**2154-3-21**]  03:35 PM
                             [**2154-3-21**]  08:15 PM
                             [**2154-3-22**]  02:30 AM
                             [**2154-3-22**]  08:44 AM
                             [**2154-3-22**]  05:07 PM
                             [**2154-3-22**]  05:18 PM
                             [**2154-3-23**]  06:10 AM
   WBC
   13.2
   12.2
   14.5
   Hct
   24.0
   29.7
   30.2
   29.8
   31.2
   Plt
   76
   53
   70
   Cr
   1.1
   1.0
   0.8
   0.8
   0.8
   1.5
   TCO2
   22
   16
   Glucose
   138
   126
   92
   108
   139
   91
   Other labs: PT / PTT / INR:15.3/66.8/1.4, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Cardiogenic shock/MR: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet. Off pressors completely.
   - very low U/O ; off CVVH [**12-31**] to low bp. Subsequently MAP 55-65. Will
   attempt to transition to HD.
   - continue Hydral, nitro for afterload reduction given MR -> split up
   so doesn
t get them all at once
   - Hold coreg given doesn
t have good CO with low HRs and V-pacing
   - consider repeat echo tomorrow to assess MR and need for repair
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   - Repeat TTE tomorrow to eval for MR severity
   # Diarrhea: Will follow up Cdiff cultures and start abx if necessary
   # Normocytic anemia:  Stable. Folate, B12 and Fe studies
   noncontributory to anemia. Will continue to monitor
   # Thrombocytopenia:  Has been stable over last days.
   # ARF:Most likely contrast nephropathy. Creatinine rose to 2.4 today
   and has had very minimal urine output. Since MAPs in 55-65 range of
   CVVH she may tolerate HD. Renal recs appreciated.  Remains oligouric.
   Crn at baseline on admission 2.0
   - will monitor uo and may require long term dialysis if remains low.
   -Will follow up renal recs
   # Rhythm: aflutter/fib
   - Heparin gtt
   - continue amiodarone, but change to 200mg QD for bradycardia as pt
   tolerates better when the patient is not V paced
   # Gout: Allopurinol QOD
   ICU Care
   Nutrition:  Cardiac diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 5077**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-24**] 10:51 ------
   60 minutes spent of patient critical care.  ICU level care due to
   hypotension and renal failure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-24**] 10:52 ------

2154-03-25 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Decreased Amio because HRs in 50s and CO worse when bradycardic
   - renal wanted to [**Name6 (MD) **] off RRT for one more day because do not think
   will tolerate HD with such low BPs and want to see what MR is like on
   TTE before trying renal replacement.
   - PM lytes were worse hyponatremia likely from fluid overload consider
   RRT as therapy as already decreased PO intake and not enough IV meds to
   cause this
   - CDiff negative (diarrhea a few days ago)
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications: ASA 325, plavix 75mg, allopurinol 100mg QOD,
   pantoprazole 40mg daily, simvastatin 20mg, Imdur 10mg TID, hydralazine
   10mg [**Hospital1 7**], Amiodarone 200mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-25**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 34.1
C (93.3
   HR: 64 (57 - 69) bpm
   BP: 84/55(62) {68/46(54) - 101/68(76)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 60.4 kg (admission): 65 kg
   Height: 58 Inch
             Total In:
                                                                  1,248 mL
                                                                    169 mL
   PO:
                                                                    840 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    408 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                     15 mL
   Urine:
                                                                     75 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 4L
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Gen: Elderly female in NAD
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Regular rate and rhythm, normal S1, S2. 3/6 systolic murmur best
   heard at apex. Hyperdynamic PMI. No thrills, lifts. No S3 or S4.
   Chest: Wheezing and crackles
 way up both lung fields
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Bilateral pitting edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: A+OX3
   Labs / Radiology
   97 K/uL
   10.0 g/dL
   90
   3.0 mg/dL
   20 mEq/L
   5.0 mEq/L
   48 mg/dL
   94 mEq/L
   127 mEq/L
   3059 %
   14.1 K/uL
        [image002.jpg]
                             [**2154-3-21**]  03:21 PM
                             [**2154-3-21**]  03:35 PM
                             [**2154-3-21**]  08:15 PM
                             [**2154-3-22**]  02:30 AM
                             [**2154-3-22**]  08:44 AM
                             [**2154-3-22**]  05:07 PM
                             [**2154-3-22**]  05:18 PM
                             [**2154-3-23**]  06:10 AM
                             [**2154-3-24**]  05:35 AM
                             [**2154-3-24**]  03:15 PM
   WBC
   12.2
   14.5
   15.0
   Hct
   29.7
   30.2
   29.8
   31.2
   30.9
   Plt
   53
   70
   92
   Cr
   0.8
   0.8
   0.8
   1.5
   2.4
   2.7
   TCO2
   22
   16
   Glucose
   92
   108
   139
   91
   101
   Other labs: PT / PTT / INR:15.6/66.9/1.4, CK / CKMB /
   Troponin-T:2159/273/14.93, ALT / AST:305/500, Alk Phos / T
   Bili:107/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Fibrinogen:669 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.6
   g/dL, LDH:1540 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Cardiogenic shock/MR: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet. Off pressors completely. Continue to have very
   low U/O ; off CVVH [**12-31**] to low bp. Subsequently MAP 55-65
   - continue Hydral, nitro for afterload reduction given MR -> split up
   so doesn
t get them all at once
   # Inferior STEMI: now s/p primary PCI to the mid-RCA. Continuing post
   cath management with aspirin 325, clopidogrel 75 and simvastatin 80.
   - holding carvedilol, lisinopril
   # Diarrhea:  C Diff negative from [**3-24**]
   # Normocytic anemia:  Stable. Folate, B12 and Fe studies
   noncontributory to anemia. Will continue to monitor
   # Thrombocytopenia:  Has been stable over last days.
   # ARF:Most likely contrast nephropathy. Creatinine rose to 3.0 today
   and has had very minimal urine output. Since MAPs in 55-65 range off
   CVVH she may tolerate HD. Renal recs appreciated.  Crn at baseline on
   admission 2.0
   - monitor uop
   - will likely require long term dialysis
   - HD started today, monitor BP with HD with goal SBP>90
   - [**Hospital1 7**] lytes for now
   - Will follow up renal recs
   # Hyponatremia: From volume overload as patient is not making much
   urine. Sodium increased to 127 from 126. Will likely improved as fluid
   is removed with HD
   - pm lytes after HD
   # Rhythm: aflutter/fib
   - Heparin gtt
   - continue amiodarone 200mg QD
   # Gout: Allopurinol QOD
   ICU Care
   Nutrition:  Cardiac diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 7164**] H+P, A+P.  60 minutes spent on patient critical care.  ICU
   level care due to cardiogenic shock and renal failure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-25**] 12:04 ------

2154-03-26 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -had loss of dopplerable pulses of LLE assoc w/ left foot
   pain/parasthesias & decr. sensation to light touch; symptoms resolved
   spontaneously & pulses returned w/ doppler after heating blanket
   -tolerated HD well w/ 700 cc fluid removed
   -initiated workup for outpt HD; PPD placed
   -plan for tunnelled HD line placement [**3-26**], will need heparin held 3
   hrs prior
   -had foul-smelling stool output, c. diff sent
   -Na 127->137 in 10 hrs after HD (no mental status change)
   S: denies foot pain this am, but reports numbness.  Cough improving.
   No CP/SOB or fever/chills.
   Allergies:
   Cefazolin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications: ASA, plavix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-26**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 64 (60 - 77) bpm
   BP: 92/44(55) {75/39(54) - 111/63(71)} mmHg
   RR: 12 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 65 kg
   Height: 58 Inch
             Total In:
                                                                  1,706 mL
                                                                    244 mL
   PO:
                                                                  1,350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    356 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     10 mL
   Urine:
                                                                     75 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    931 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: Elderly female in NAD
   HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   Neck: Supple with JVD elevated , Left HD line in place
   CV: Regular rate and rhythm, normal S1, S2. 3/6 systolic murmur best
   heard at apex. Hyperdynamic PMI. No thrills, lifts. No S3 or S4.
   Chest: crackles
 way up both lung fields
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Bilateral trace pitting edema. No femoral bruits, wwp + dop PT and
   DP bilat.
   Skin: No stasis dermatitis, stage I ulcers on LLE heel, scars, or
   xanthomas.  No ecchymoses or petechiae.
   Neurologic: A+OX3
   Labs / Radiology
   38 K/uL
   9.2 g/dL
   98 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   28 mg/dL
   97 mEq/L
   133 mEq/L
   29.2 %
   16.0 K/uL
        [image002.jpg]
                             [**2154-3-22**]  02:30 AM
                             [**2154-3-22**]  08:44 AM
                             [**2154-3-22**]  05:07 PM
                             [**2154-3-22**]  05:18 PM
                             [**2154-3-23**]  06:10 AM
                             [**2154-3-24**]  05:35 AM
                             [**2154-3-24**]  03:15 PM
                             [**2154-3-25**]  05:41 AM
                             [**2154-3-25**]  03:44 PM
                             [**2154-3-26**]  02:53 AM
   WBC
   12.2
   14.5
   15.0
   14.1
   16.0
   Hct
   30.2
   29.8
   31.2
   30.9
   30.5
   29.2
   Plt
   53
   70
   92
   97
   38
   Cr
   0.8
   0.8
   1.5
   2.4
   2.7
   3.0
   1.5
   2.0
   TCO2
   16
   Glucose
   92
   108
   139
   91
   101
   90
   191
   98
   Other labs: PT / PTT / INR:14.9/50.0/1.3,
   Diff: N 78, B 6, L 9, M5
   Smear: occasional shistocytes.
    Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Stool cx: neg for C diff x2 ([**3-25**] and [**3-24**])
   Hep serologies pending.
   Assessment and Plan
   80 yo woman with HTN HL CAD now s/p primary PCI to the mid-RCA for
   inferior STEMI complicated by posterior pap muscle ischemia and MR.
   # Mitral Regurgitation: Has posterior pap muscle ischemia and severe MR
   but not a flail leaflet.
   - continue Hydral, nitro for afterload reduction given MR
   # Inferior STEMI: now s/p primary PCI to the mid-RCA.
   - continuing post cath management with aspirin 325, clopidogrel 75 and
   simvastatin 80.
   - holding carvedilol, lisinopril
   # Thrombocytopenia:  Platelets decreased from 98
 38K this am.
   Thrombocytopenia thought to be [**12-31**] balloon pump in the past.  Were
   improving but now worsening.  PF4 negative in the past, but HIT is
   possible. No evidence of peripheral thrombosis on exam. DDX ITP or TTP
   - hematology consult appreciated.
   - haptoglobin, LDH, retics, or t/c repeat Hep antibodies
   - repeat platelet count now and this PM.
   - dc PPI
   - d/c heparin gtt, cont flushes for now.
   - platelet transfusion prior to tunnelled line placement
   # ARF:Most likely contrast nephropathy but has been slow to improve
   with continual oliguria. Tolerated HD well yesterday with 75 cc UOP
   yesterday. Work-up initiated for outpatient hemodialysis. Plan is for
   tunnelled HD line today, but platelets 38K
   - monitor uop
   - continue HD
   - tunnelled HD line placement today
   - repeat platelet count, transfuse platelets prior to procedure
   - follow up PPD (to be read [**3-27**]), hepatitis serologies
   - follow up renal recs
   # Normocytic anemia:  Hct stable at 29.2 from 30.5, Fe studies
   unrevealing.
   - cont to monitor.
   # Diarrhea:  C Diff negative x2, still with symptoms
   - check 3^rd stool sample.
   - check TSH
   # Hyponatremia: Resolved
   # Rhythm: aflutter/fib
 t/c anticoagulation after thrombocytopenia
   workup completed.
   - d/c Heparin gtt
   - continue amiodarone 200mg QD
   # Gout: Allopurinol QOD
   ICU Care
   Nutrition:  Cardiac diet
   Glycemic Control:
   Lines:  d/c foley
   Dialysis Catheter - [**2154-3-20**] 08:53 PM
   20 Gauge - [**2154-3-25**] 05:02 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: Full code
   Disposition:  call out to floor today
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**First Name (STitle) 840**]
s H+P, A+P.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2154-3-26**] 16:35 ------